US08486953B2
Preparation of 5-methyl-N-(2-(pyrrolidin-1-yl)ethyl)-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.105 g, 0.28 mmol) was added into a mixture of 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid (0.097 g, 0.25 mmol) and Hünig's base (44 μL, 0.25 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. 1-(2-Aminoethyl)-pyrrolidine (157 μL, 1.25 mmol) was added and the coolant removed. The reaction mixture was stirred at ambient temperature overnight. The solvent was concentrated in vacuo, the crude material added into water (10 mL) and the aqueous layer extracted into DCM. The product was purified by flash-column chromatography (DCM→10% ammonia/MeOH/DCM) to yield the title compound as off-white solid (0.051 g, 42% yield).

reactant | HATU | 0.28 mmol, 0.105 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.25 mmol, 0.097 g | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)OC2CCOCC2)C(=O)O | C18H18N4O4S
reactant | Hünig's base | 0.25 mmol, 44 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-Aminoethyl)-pyrrolidine | 1.25 mmol, 157 μL | NCCN1CCCC1 | C6H14N2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-methyl-N-(2-(pyrrolidin-1-yl)ethyl)-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide | 0.051 g, 42% yield | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)OC2CCOCC2)C(=O)NCCN2CCCC2 | C24H30N6O3S
